US08895582B2
A solution of 6-fluoro-isoquinoline-3-carboxylic acid methyl ester (27 g) and hydrazine (42 g, 10 equiv.) in ethanol (500 mL) was refluxed for 2 h. The reaction mixture was concentrated under high vacuum to remove hydrazine, and the resulting residue was triturated with ethanol (100 mL) to give 6-fluoro-isoquinoline-3-carboxylic acid hydrazide as a light yellow solid (22.8 g, 84%). LRMS (M+H+) m/z 206.1.

reactant | 6-fluoro-isoquinoline-3-carboxylic acid methyl ester | 27 g | COC(=O)C=1N=CC2=CC=C(C=C2C1)F | C11H8FNO2
reactant | hydrazine | 42 g, 10 equiv. | NN | H4N2
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 6-fluoro-isoquinoline-3-carboxylic acid hydrazide | 22.8 g, 84% | FC=1C=C2C=C(N=CC2=CC1)C(=O)NN | C10H8FN3O
